US05973159
2-Chloro-6-trifluoromethylpyridine (10.0 g; 55.1 mmol; 1 equiv) was charged to a 100 ml Hastelloy C Parr reactor, the reactor sealed and pressure tested with nitrogen. When a sealed system had been achieved, the pressure was released, the reactor resealed, and heated to 150° C. Potassium hydroxide solution (10% strength; 68.0 g; 121.1 mmol; 2.2 equiv) was added via an HPLC pump over 1 hour, while the mixture was maintained at 150° C. Addition of base caused the pressure to rise to 5 bar. The reaction mixture was held at this temperature and pressure for a further 5 hours. Following this period the reactor was cooled, dismantled and sodium chloride (5 g) added. The solution was cooled to 5° C., acidified to pH 5-6 by the addition of concentrated sulphuric acid, filtered and pulled dry. The filter cake was washed with water (10 g), pulled dry, discharged and allowed to dry overnight to afford 2-hydroxy-6-trifluoromethylpyridine as a colourless powder (9.5 g; 95% strength; 92% isolated yield).

reactant | 2-Chloro-6-trifluoromethylpyridine | 55.1 mmol, 10.0 g, 1 equiv | ClC1=NC(=CC=C1)C(F)(F)F | C6H3ClF3N
reactant | Potassium hydroxide | 121.1 mmol, 68.0 g, 2.2 equiv | [OH-].[K+]
reactant | sodium chloride | 5 g | [Cl-].[Na+]
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
catalyst | Hastelloy C | 100 ml | [Cr].[Co]
product | 2-hydroxy-6-trifluoromethylpyridine | OC1=NC(=CC=C1)C(F)(F)F | C6H4F3NO
